US03963730
5 g. of Acetonine and 12.4 g. of ammonium bromide were added to 30 g. of acetone and the mixture was maintained at room temperature for 38 hours to effect the reaction. After completion of the reaction, the reaction mixture was purified in the same manner as in Example 1 to obtain triacetonamine in a yield of 239%.

reactant | Acetonine | CC1=NC(NC(C1)(C)C)(C)C | C9H18N2
reactant | ammonium bromide | [Br-].[NH4+]
reactant | acetone | CC(=O)C | C3H6O
product | triacetonamine | yield of 239% | CC1(CC(=O)CC(N1)(C)C)C | C9H17NO
